US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[3-(4-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide
A solution of N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide trifluoroacetate (210 mg, 0.621 mmol), 5-chloro-3-(4-fluorophenyl)-1,2,4-thiadiazole (133 mg, 0.621 mmol), triethylamine (0.432 ml, 3.11 mmol) and N,N-dimethylformamide (3 ml) was stirred at room temperature for 0.5 hours and the reaction mixture was poured into water. A solid was collected by filtration and recrystallized from a mixed solvent of tetrahydrofuran and ethyl acetate to obtain the desired product (49.5 mg, 19.8%) as a solid.

reactant | N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide trifluoroacetate | 0.621 mmol, 210 mg | FC(C(=O)O)(F)F.CC1=NOC(=C1C)NC(=O)N1CCNCC1
reactant | 5-chloro-3-(4-fluorophenyl)-1,2,4-thiadiazole | 0.621 mmol, 133 mg | ClC1=NC(=NS1)C1=CC=C(C=C1)F | C8H4ClFN2S
reactant | triethylamine | 3.11 mmol, 0.432 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[3-(4-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide | 49.5 mg, 19.8% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=C(C=C1)F | C18H19FN6O2S
